### PR TITLE
Basics chapter and nix-shell

### PR DESCRIPTION
**Pull request by cattingcat**

### CODE REVIEW

**Comment by clayrat** [comment]
Thanks! I have a few comments.

File: src/basics.v [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+From mathcomp Require Import ssrnat eqtype seq path order bigop.
+From favssr Require Import prelude.
+
+Section Basics.
+Context {T : Type}.
+Implicit Types (xs ys zs: seq T).
+
+(* 1.4 Proofs *)
+
+Lemma list_app xs ys zs : (xs ++ ys) ++ zs = xs ++ ys ++ zs.
```
Comment (clayrat) [inline src/basics.v]: Let's drop this, it already exists as `catA`.

File: src/basics.v [hunk 2]
```diff
@@ -0,0 +1,64 @@
...
+Proof.
+elim: xs => [| a xs IH] //.
+by rewrite !cat_cons IH.
+Qed.
+
+(* TODO: 1.4.1 gcd example *)
+
+(* 1.5 Running time *)
+
+Print app.
```
Comment (clayrat) [inline src/basics.v]: Looks like a debugging leftover.

File: src/basics.v [hunk 3]
```diff
@@ -0,0 +1,64 @@
...
+
+Fixpoint T_app xs ys : nat :=
+  match xs with
+  | [::] => 1
+  | _ :: xs' => (T_app xs' ys).+1
+  end.
+
+Fixpoint T_app' xs ys : nat :=
+  if xs is _ :: xs' then (T_app' xs' ys).+1 else 1.
```
Comment (clayrat) [inline src/basics.v]: Let's keep this version and drop the previous one.

File: src/basics.v [hunk 4]
```diff
@@ -0,0 +1,64 @@
...
+Lemma T_app_complexity xs ys : T_app xs ys = (length xs).+1.
+Proof.
+elim: xs => [| x xs IH] //.
+by rewrite T_app_cons IH.
+Qed.
+
+(* Exercise 1.5.1 formula for T_rev *)
+
+
+Definition iterv {T} := @catrev T.
```
Comment (clayrat) [inline src/basics.v]: I think the book calls it `itrev`, not `iterv`. I'd just go with `catrev` here and below without introducing an alias.

**Review by clayrat — CHANGES_REQUESTED** [review]

File: src/basics.v [hunk 5]
```diff
@@ -0,0 +1,64 @@
...
+Fixpoint rev' xs :=
+  if xs is x :: xs' then rev' xs' ++ [:: x] else [::].
+
+Fixpoint T_rev xs : nat :=
+  if xs is x :: xs' then T_rev xs' + T_app (rev' xs') [:: x] + 1 else 1.
+
+Lemma T_app_cons x xs ys : T_app (x :: xs) ys = (T_app xs ys).+1.
+Proof. by []. Qed.
+
+Lemma T_app_complexity xs ys : T_app xs ys = (length xs).+1.
```
Comment (clayrat) [inline src/basics.v]: Mathcomp uses `size` instead of `length`.

**Comment by cattingcat** [comment]
@clayrat Thx for review. I also added first lemma from Selection chapter here
